US05532235
7,8-Dihydro-5(6H)quinolinone
A mixture of 57.93 g of 3-amino-2-cyclohexene-1-one, 76.8 g of 3-(dimethylamino)acrotein, 62.5 ml of glacial acetic acid and 270 ml of toluene is refluxed under argon for 16 hours and concentrated under vacuum to dryness. Toluene (200 ml) is added and the solvent removed under vacuum. To the residue is added one liter of dichloromethane and then 200 ml of saturated NaHCO3 slowly added and solid NaHCO3 added to bring the pH to 8. The mixture is filtered and the CH2Cl2 layer separated. The CH2Cl2 layer is passed through a thin pad of hydrous magnesium silicate and the filtrate concentrated to dryness. The residual black oil is extracted with hot hexane and the hexane decanted. This process is repeated until no more product extracted into the hexane. The hexane extracts are combined and the solvent removed to give 17.3 g of product as an oil.

reactant | 3-amino-2-cyclohexene-1-one | 57.93 g | NC1=CC(CCC1)=O | C6H9NO
reactant | acetic acid | 62.5 ml | C(C)(=O)O | C2H4O2
reactant | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
product | 7,8-Dihydro-5(6H)quinolinone | 17.3 g | N1=CC=CC=2C(CCCC12)=O | C9H9NO
